US04814346
6,7-Dihydroxy-3-(4-nitrophenyl)-4H-1-benzopyran-4-one [cp. J. Inst. Chem. (Calcutta) 43, 234 (1971)] (1 g) is dissolved in 250 ml of a mixture of dioxan and ethanol 1:1. Raney nickel (0.45 g) is added and the mixture is hydrogenated for 18 h at room temperature, then filtered. The solution is evaporated under vacuum to about one third of its original volume until a precipitate occurs which is filtered and crystallized in dioxan to give 6,7-dihydroxy-3-(4-aminophenyl)-4H-1-benzopyran-4-one, m.p. 305°-306°.

reactant | 6,7-Dihydroxy-3-(4-nitrophenyl)-4H-1-benzopyran-4-one | 1 g | OC=1C(=CC2=C(C(C(=CO2)C2=CC=C(C=C2)[N+](=O)[O-])=O)C1)O | C15H9NO6
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | 0.45 g | [Ni] | Ni
product | 6,7-dihydroxy-3-(4-aminophenyl)-4H-1-benzopyran-4-one | OC=1C(=CC2=C(C(C(=CO2)C2=CC=C(C=C2)N)=O)C1)O | C15H11NO4
